US07553837B2
Production of 6-nitro-2-formyl-2,5,7,8-tetramethylchroman
Under a nitrogen flow at −60° C., 1.6 ml of oxalic acid dichloride was dissolved in 40 ml of methylene chloride and 3.1 ml of DMSO was added dropwise at −60° C., followed by stirring for 5 minutes. A solution prepared by dissolving 3.9 g of 6-nitro-2-hydroxymethyl-2,5,7,8-tetramethylchroman in 10 ml of methylene chloride was added dropwise under a nitrogen gas flow at −60° C., followed by stirring at −60° C. for 30 minutes. 12 ml of triethylamine was added at −60° C. and the temperature was gradually raised to room temperature, thereby to complete the reaction. After the completion of the reaction, the reaction solution was poured into water and then extracted with chloroform. The organic layer was washed with saturated saline and then dried over anhydrous magnesium sulfate. After removing magnesium sulfate by filtration and concentrating under reduced pressure, the residue was subjected to silica gel column chromatography (hexane:ethyl acetate=2:1) to obtain 3.4 g of the objective product as a crystal.

reactant | oxalic acid dichloride | 1.6 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 3.1 ml | CS(=O)C | C2H6OS
reactant | 6-nitro-2-hydroxymethyl-2,5,7,8-tetramethylchroman | 3.9 g | [N+](=O)([O-])C=1C(=C2CCC(OC2=C(C1C)C)(C)CO)C | C14H19NO4
reactant | triethylamine | 12 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 6-nitro-2-formyl-2,5,7,8-tetramethylchroman | 3.4 g | [N+](=O)([O-])C=1C(=C2CCC(OC2=C(C1C)C)(C)C=O)C | C14H17NO4
